US04086219
A solution of L-arginyl-L-prolyl-glycinamide hydrochloride (from de-protection of 21.2 g. of Nα -benzyloxycarbonyl-L-arginyl-L-prolyl-glycinamide hydrochloride), 17 g. of Nα -benzyloxycarbonyl-L-leucine p-nitrophenyl ester and 85 ml. of dimethylformamide is allowed to stand at 25° C. for 48 hours, warmed to 50° C. for 10 minutes and let stand for six hours at 25° C. The solution is poured slowly into 800 ml. of stirred dry diethyl ether. The sticky solid is separated by decanting, dissolved in 50 ml. of methanol with warming and the solution poured into 500 ml. of stirred ether. The solid is separated and dried at 40° C. under reduced pressure. It is dissolved in 50 ml. of methanol and 450 ml. of chloroform and chromatographed over a column of 170 g. of silica gel (prepared in 10% methanol in chloroform) and eluted with 10 to 20% methanol in chloroform. The desired fractions, as shown by thin layer chromatography, are combined and evaporated to dryness at 40° C. under reduced pressure and the residue is dissolved in 50 ml. of methanol and 25 ml. of ethyl acetate and the solution is dropped slowly into 350 ml. of stirred dry ether. The solid is separated and dried at 40° C. under reduced pressure to give Nα -benzyloxycarbonyl-L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride; 11.6 g.; [α]D23 -51.6° (c 1.0, methanol); ultraviolet in methanol λmax 257 E11 3.24.

reactant | L-arginyl-L-prolyl-glycinamide hydrochloride | 21.2 g | Cl.N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1
reactant | Nα -benzyloxycarbonyl-L-leucine p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C20H22N2O6
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | Nα -benzyloxycarbonyl-L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1 | InChI=1S/C27H42N8O6.ClH/c1-17(2)14-20(34-27(40)41-16-18-8-4-3-5-9-18)23(37)33-19(10-6-12-31-26(29)30)25(39)35-13-7-11-21(35)24(38)32-15-22(28)36;/h3-5,8-9,17,19-21H,6-7,10-16H2,1-2H3,(H2,28,36)(H,32,38)(H,33,37)(H,34,40)(H4,29,30,31);1H/t19-,20-,21-;/m0./s1
